US08461164B2
A mixture of 6-chloro-4,5-diamino-2-methylpyrimidine (317 mg, 2.0 mmol) and 1,4-dioxane-2,3-diol (240 mg, 2.0 mmol) in EtOH (15 mL) was stirred at 25° C. for 1 h. TLC analysis (1:1 hexane/EtOAc on SiO2) indicated complete consumption of starting material. 1-(4-Methoxyphenyl)-ethylamine (332 mg, 2.2 mmol) and triethylamine (Et3N, 0.3 mL, 2.2 mmol) were added, and the reaction was stirred overnight. The majority of solvent was removed in vacuo and the residue was partitioned between EtOAc and H2O. The organic layer was concentrated in vacuo to leave a brown residue that was purified by column chromatography over SiO2, eluting with 2:1 EtOAc/hexane, then 100% EtOAc to afford [1-(4-methoxyphenyl)ethyl]-2-methylpteridin-4-yl-amine (126 mg) as a brown oil.

reactant | 6-chloro-4,5-diamino-2-methylpyrimidine | 2.0 mmol, 317 mg | ClC1=C(C(=NC(=N1)C)N)N | C5H7ClN4
reactant | 1,4-dioxane-2,3-diol | 2.0 mmol, 240 mg | O1C(C(OCC1)O)O | C4H8O4
reactant | 1-(4-Methoxyphenyl)-ethylamine | 2.2 mmol, 332 mg | COC1=CC=C(C=C1)C(C)N | C9H13NO
reactant | triethylamine | 2.2 mmol, 0.3 mL | C(C)N(CC)CC | C6H15N
solvent | EtOH | 15 mL | CCO | C2H6O
solvent | hexane EtOAc | CCCCCC.CCOC(=O)C
product | [1-(4-methoxyphenyl)ethyl]-2-methylpteridin-4-yl-amine | 126 mg | COC1=CC=C(C=C1)C(C)NC1=NC(=NC2=NC=CN=C12)C | C16H17N5O
